US08735384B2
(2-(2-Amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanone (0.152 g, 0.359 mmol) was dissolved in a mixture of DCM (4.0 mL) and MeOH (5.0 mL). Sodium borohydride (0.041 g, 1.077 mmol) was added to the mixture in three portions (each portion added at 3 h intervals) and the mixture was stirred at ambient temperature. The mixture was treated with DCM (10 mL) and saturated aqueous bicarbonate (10 mL) and stirred for 20 min. The phases were separated and the organic layer was concentrated to afford a yellow solid (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanol which was used without further purification.

reactant | (2-(2-Amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanone | 0.359 mmol, 0.152 g | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(=O)C1=CC=CC=C1 | C27H25N3O2
reactant | Sodium borohydride | 1.077 mmol, 0.041 g | [BH4-].[Na+]
reactant | bicarbonate | 10 mL | C([O-])(O)=O
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5.0 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(phenyl)methanol | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(O)C1=CC=CC=C1 | C27H27N3O2
